US04315862
(Preparation of Cannabichromene)
To a three-necked round bottomed flask (100 ml capacity), fitted with a dropping funnel and a condenser was added 5 g. olivetol (27.8 mmole) and 2.03 g. (2.96 ml., 27.8 mmole) t-butyl amine in 55 ml toluene and the mixture was heated to 50°-60° C., 4.23 g. (4.76 ml., 27.8 mmole) of citral was then added dropwise. The mixture was refluxed for 9 hours, after which time it was cooled to room temperature and the solvent evaporated to give 9.3 g. of crude reaction mixture. Gas chromatographic analysis of the reaction mixture showed 59.46% CBC (molar conversion), 5.04% cannabicitran and trace amount of iso-CBC.

reactant | olivetol | 27.8 mmole | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
reactant | t-butyl amine | 27.8 mmole, 2.96 ml | C(C)(C)(C)N | C4H11N
reactant | citral | 27.8 mmole, 4.76 ml | CC(C)=CCCC(C)=CC=O | C10H16O
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | Cannabichromene | CCCCCC=1C=C(C2=C(C1)OC(C=C2)(C)CCC=C(C)C)O | C21H30O2
